US08389720B2
N-[(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)methyl]-N-[2-phenyl-2-(tetrahydro-2H-pyran-4-yl)ethyl]cyclohexanecarboxamide
To 1-methyl-3-({[2-phenyl-2-(tetrahydro-2H-pyran-4-yl)ethyl]amino}methyl)quinolin-2(1H)-one (46.5 mg, 0.124 mmol) in CH2Cl2 (3 ml) and added DIEA (0.043 ml, 0.247 mmol) then cyclohexanecarbonyl chloride (0.018 ml, 0.136 mmol). The reaction was stirred for 1 hour and then concentrated in vacuo. Purified by reversed-phase chromatography (15-75% ACN in water (with 0.5 ml/l NH4OH), 20×100 mm Phenomenex Gemini C18 column). Desired fractions were concentrated in vacuo. HRMS [M+H]1+ 487.2962. 400 MHz 1H NMR (CDCl3) δ 7.59-7.47 (m, 2 H), 7.37 (d, J=8.52 Hz, 1 H), 7.33-7.13 (m, 7 H), 4.26 (d, J=18.4, 1 H), 4.17-3.95 (m, 2 H), 3.88-3.76 (m, 2 H), 3.74 (s, 3 H), 3.44-3.23 (m, 3 H), 2.97-2.91 (m, 0.8 H, rotational isomer A), 2.67-2.62 (m, 0.2 H, rotational isomer B), 2.42-2.19 (m, 0.2 H, rotational isomer B), 2.15-2.08 (m, 0.8 H, rotational isomer A), 1.95-0.95 (m, 15 H). 29.4 mg, 49%.

reactant | 1-methyl-3-({[2-phenyl-2-(tetrahydro-2H-pyran-4-yl)ethyl]amino}methyl)quinolin-2(1H)-one | 0.124 mmol, 46.5 mg | CN1C(C(=CC2=CC=CC=C12)CNCC(C1CCOCC1)C1=CC=CC=C1)=O | C24H28N2O2
reactant | DIEA | 0.247 mmol, 0.043 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclohexanecarbonyl chloride | 0.136 mmol, 0.018 ml | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | N-[(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)methyl]-N-[2-phenyl-2-(tetrahydro-2H-pyran-4-yl)ethyl]cyclohexanecarboxamide | CN1C(C(=CC2=CC=CC=C12)CN(C(=O)C1CCCCC1)CC(C1CCOCC1)C1=CC=CC=C1)=O | C31H38N2O3
